US07985753B2
2-(2-Trifluoromethylphenyl)-ethylamine
In close analogy to the procedure described above, 1-(2-Nitro-vinyl)-2-trifluoromethyl-benzene is reacted with lithium aluminium hydride to provide the title compound.

reactant | 1-(2-Nitro-vinyl)-2-trifluoromethyl-benzene | [N+](=O)([O-])C=CC1=C(C=CC=C1)C(F)(F)F | C9H6F3NO2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(2-Trifluoromethylphenyl)-ethylamine | FC(C1=C(C=CC=C1)CCN)(F)F | C9H10F3N
